US08729095B2
Under a hydrogen atmosphere, a tetrahydrofuran suspension (45 ml) of benzyl 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-fluorobiphenyl-4-carboxylate (2.23 g) and 20% palladium hydroxide carbon (2.23 g) was stirred at room temperature overnight. The reaction solution was filtered through Celite, and washed with methanol, and the filtrate was concentrated under reduced pressure. The residue was dried to afford 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-fluorobiphenyl-4-carboxylic acid (1.31 g).

reactant | benzyl 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-fluorobiphenyl-4-carboxylate | 2.23 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OCC1=CC=CC=C1)F | C40H41FO4Si
catalyst | palladium hydroxide carbon | 2.23 g | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-fluorobiphenyl-4-carboxylic acid | 1.31 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)F | C33H35FO4Si
